US07417169B2
A mixture of ethyl 4′-hydroxybiphenyl-4-carboxylate (2.262 g), ethyl bromoacetate (1.871 g) and potassium carbonate (1.940 g) in N,N-dimethylformamide (50 mL) was stirred at 60° C. for 1 hr. Diethylamine (6.820 g) was added to the reaction mixture. After being stirred at room temperature for 30 minutes, the mixture was partitioned between ethyl acetate and water. The organic layer was washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford ethyl 4′-ethoxycarbonylmethoxybiphenyl-4-carboxylate (3.06 g) as a crude product. A mixture of the crude ethyl 4′-ethoxycarbonylmethoxybiphenyl-4-carboxylate, sodium borohydride (0.706 g), tetrahydrofuran (40 mL) and ethanol (10 mL) was stirred at 60° C. for 1 hr. Methanol (10 mL) was added to the reaction mixture, and stirred at room temperature for additional 30 minutes. The solvent was evaporated under reduced pressure, and the residue was partitioned between ethyl acetate and 1 mol/L hydrochloric acid. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford the title compound (3.000 g)

reactant | ethyl 4′-hydroxybiphenyl-4-carboxylate | 2.262 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C15H14O3
reactant | ethyl bromoacetate | 1.871 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 1.940 g | C([O-])([O-])=O.[K+].[K+]
reactant | Diethylamine | 6.820 g | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 4′-ethoxycarbonylmethoxybiphenyl-4-carboxylate | 3.06 g | C(C)OC(=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C19H20O5
